US04883875
8-[4-(4-pyridinyl)butyl]-8-azaspiro[4.5]decane-7,9-dione
To a stirred solution of 1.8 g. (0.011 mol) of 3,3-tetramethyleneglutarimide in 50 ml. of dimethylformamide is added 3 g. (0.011 mol) of cesium carbonate and 3.2 g. (0.011 mol) of 4-pyridinylbutyl bromide hydrobromide. The reaction mixture is stirred at room temperature for 48 hours, dimethylformamide is evaporated under reduced pressure and the residue is extracted with methylene chloride (3×200 ml.). The methylene chloride extracts are collected, washed with water, dried over anhydrous Na2SO4 and evaporated under reduced pressure. The semisolid residue was subjected to HPLC separated using ethyl acetate as eluent. Evaporation of the solvent from the desired fraction (TLC Rf 0.2) affords 1.0 g. (30% yield) of the titled compound which is converted to the hydrochloride salt by dissolving the free base in ethanol and adding ethanol saturated with hydrogen chloride; m.p. 155°-157° C.

reactant | 3,3-tetramethyleneglutarimide | 0.011 mol | C1CCC2(C1)CC(=O)NC(=O)C2 | C9H13NO2
reactant | cesium carbonate | 0.011 mol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-pyridinylbutyl bromide hydrobromide | 0.011 mol | Br.N1=C(C=CC=C1)CCCCBr
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-[4-(4-pyridinyl)butyl]-8-azaspiro[4.5]decane-7,9-dione | 30% yield | N1=CC=C(C=C1)CCCCN1C(CC2(CCCC2)CC1=O)=O | C18H24N2O2
